US07655669B2
4-[[2-(Dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzoic acid
A mixture consisting of 25 mL dioxane, 12.5 mL water and 9.4 mL 2M aqueous sodium hydroxide solution is added to 4-[[2-(dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzonitrile (1.35 g, 5 mmol) and the reaction mixture shaken in for 16 hours at 95° C. After cooling, the mixture is evaporated is evaporated to dryness under reduced pressure. The resulting residue is treated with water, the pH adjusted to ˜5 with 1M hydrochloric acid and the mixture evaporated to dryness under reduced pressure. The solid residue is treated with methanol, the suspension filtered and the filtrate evaporated to yield the title compound.

reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2M, 9.4 mL | [OH-].[Na+]
reactant | 4-[[2-(dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzonitrile | 5 mmol, 1.35 g | CN(CCN(C1=C(C=C(C#N)C=C1)C(F)(F)F)C)C | C13H16F3N3
solvent | water | 12.5 mL | O | H2O
product | 4-[[2-(Dimethylamino)ethyl]methylamino]-3-(trifluoromethyl)-benzoic acid | CN(CCN(C1=C(C=C(C(=O)O)C=C1)C(F)(F)F)C)C | C13H17F3N2O2
